US09212190B2
Synthesis of 2-[(3R)-12-(piperidin-4-ylmethoxy)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide (I-143)
To a solution of tert-butyl 4-([[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]methyl)piperidine-1-carboxylate (290 mg, 0.68 mmol, 1.00 equiv) in methanol (20 mL) were added LiOH.H2O (114 mg, 2.71 mmol, 4.01 equiv). This was followed by the addition of H2O2 (30%) (114 mg, 4.00 equiv) dropwise with stirring at 0° C. The resulting solution was stirred for 4 h at room temperature. The resulting solution was diluted with 50 mL of ethyl acetate. The resulting mixture was washed with 3×20 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. This resulted in 220 mg (73%) of tert-butyl 4-([[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]methyl)piperidine-1-carboxylate as a white solid.

reactant | tert-butyl 4-([[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]methyl)piperidine-1-carboxylate | 0.68 mmol, 290 mg, 1.00 equiv | C(#N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OCC1CCN(CC1)C(=O)OC(C)(C)C | C22H28N4O3S
reactant | LiOH.H2O | 2.71 mmol, 114 mg, 4.01 equiv | O[Li].O
reactant | H2O2 | 114 mg, 4.00 equiv | OO | H2O2
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(3R)-12-(piperidin-4-ylmethoxy)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | N1CCC(CC1)COC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C17H22N4O2S
